US05489593
1-[5-Bromoindolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine (III)
Following the general procedure of EXAMPLE 16A and making non-critical variations but starting with 5-bromoindole-2-carboxylic acid (0.51 g), 1-[3-(1-methylethylamino)-2-pyridinyl]piperazine (0.47 g) and 1-(ethyl)-3-(dimethylaminopropyl)carbodiimide (0.49 g), the title compound is obtained, mp 229°-230°.

reactant | 5-bromoindole-2-carboxylic acid | 0.51 g | BrC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6BrNO2
reactant | 1-[3-(1-methylethylamino)-2-pyridinyl]piperazine | 0.47 g | CC(C)NC=1C(=NC=CC1)N1CCNCC1 | C12H20N4
reactant | 1-(ethyl)-3-(dimethylaminopropyl)carbodiimide | 0.49 g | C(C)N=C=NCCCN(C)C | C8H17N3
product | 1-[5-Bromoindolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine | CC(C)NC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=C(N3)C=CC(=C4)Br | C21H24BrN5O
